US06117841
[S-(R*,R*)]-2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide
O-Benzyl-L-tyrosine-t-butyl-amide (Ia, 0.5 g, 1.53 mmol) was dissolved in DMF (8 mL) and treated with diisopropylethylamine (0.8 mL, 4.6 mmol), N-cyclohexyl-N-methyl-leucine (Iid, 0.34 g, 1.53 mmol), and HBTU (0.58 g, 1.53 mmol). The reaction was stirred for 2 hours, then diluted with EtOAc (100 mL), washed with saturated bicarbonate solution (2×100 mL), brine (100 mL), dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 50% EtOAC/hexane. The resulting material was chromatographed again on silica gel eluting with 8% acetone/CH2Cl2 to give 0.11 g (14%) of the title compound. MS: 537 (M+1 for C33H49N3O3); TLC: SiO2, Rf 0.57 (10% MeOH/CH2Cl2).

reactant | O-Benzyl-L-tyrosine-t-butyl-amide | 1.53 mmol, 0.5 g | C(C)(C)(C)NC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C20H26N2O2
reactant | diisopropylethylamine | 4.6 mmol, 0.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-cyclohexyl-N-methyl-leucine | 1.53 mmol, 0.34 g | C1(CCCCC1)N([C@@H](CC(C)C)C(=O)O)C | C13H25NO2
reactant | HBTU | 1.53 mmol, 0.58 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(Cyclohexyl-methyl-amino)-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide | 0.11 g, 14% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C(CC(C)C)N(C)C1CCCCC1)=O | C33H49N3O3
